### PR TITLE
[Merged by Bors] - feat(RingTheory): bialgebra definition

### PR DESCRIPTION
**Pull request by al-ramsey**
Add definition of a bialgebra. For FLT.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Bialgebra.lean [hunk 1]
```diff
@@ -0,0 +1,76 @@
...
+
+/-- A bialgebra over a commutative (semi)ring `R` is both an algebra and a coalgebra over `R`, such
+that the counit and comultiplication are algebra morphisms. -/
+class Bialgebra (R : Type u) (A : Type v) [CommSemiring R] [Semiring A] extends
+    Algebra R A, Coalgebra R A where
+  /-- The counit is an algebra morphism -/
+  counit_mul : ∀ a₁ a₂ : A, counit (a₁ * a₂) = counit a₁ * counit a₂
+  counit_unit : counit 1 = 1
+  /-- The comultiplication is an algebra morphism -/
+  comul_mul : ∀ a₁ a₂ : A, comul (a₁ * a₂) = Algebra.TensorProduct.mul (comul a₁) (comul a₂)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Bialgebra.lean:35]: Should this be written using `*`? I think `mul` is an implementation detail.
```suggestion
  comul_mul : ∀ a₁ a₂ : A, comul (a₁ * a₂) = comul a₁ * comul a₂
```

File: Mathlib/RingTheory/Bialgebra.lean [hunk 2]
```diff
@@ -0,0 +1,70 @@
...
+  /-- The comultiplication is an algebra morphism -/
+  comul_mul : ∀ a₁ a₂ : A, comul (a₁ * a₂) = comul a₁ * comul a₂
+  comul_one : comul 1 = 1
+
+namespace Bialgebra
+variable {R : Type u} {A : Type v}
+variable [CommSemiring R] [Semiring A] [B : Bialgebra R A]
+
+@[simp]
+theorem counit_mul_apply (a₁ a₂ : A) : B.counit (a₁ * a₂) = B.counit a₁ * B.counit a₂ :=
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Bialgebra.lean:43]: I think this lemma can be dropped, along with the one below; `apply` seems unnecessary in the lemma name, and you can use `attribute [simp] Bialgebra.comul_mul` instead to avoid duplicating the statement

File: Mathlib/RingTheory/Bialgebra.lean [hunk 3]
```diff
@@ -0,0 +1,83 @@
...
+  /-- The counit on a bialgebra preserves multiplication. -/
+  counit_mul : ∀ a₁ a₂ : A, counit (a₁ * a₂) = counit a₁ * counit a₂
+  -- The comultiplication is an algebra morphism
+  /-- The comultiplication on a bialgebra preserves `1`. -/
+  comul_one : comul 1 = 1
+  /-- The comultiplication on a bialgebra preserves multiplication. -/
+  comul_mul : ∀ a₁ a₂ : A, comul (a₁ * a₂) = comul a₁ * comul a₂
+
+namespace Bialgebra
+variable {R : Type u} {A : Type v}
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Bialgebra.lean:43]: What about making `R` and `A` explicit here, so one can use `counitAlgHom R A` (similarly to `algebraMap R A`) without knowing the name of the instance?

File: Mathlib/RingTheory/Bialgebra.lean [hunk 4]
```diff
@@ -0,0 +1,83 @@
+/-
+Copyright (c) 2024 Ali Ramsey. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Ali Ramsey
+-/
+import Mathlib.RingTheory.Coalgebra
+import Mathlib.RingTheory.TensorProduct
```
Comment (semorrison) [inline Mathlib/RingTheory/Bialgebra.lean:7]:
```suggestion
import Mathlib.RingTheory.TensorProduct
```
It seems unlikely that this import is required here.

File: Mathlib/RingTheory/Bialgebra.lean [hunk 5]
```diff
@@ -0,0 +1,83 @@
...
+
+/-- A bialgebra over a commutative (semi)ring `R` is both an algebra and a coalgebra over `R`, such
+that the counit and comultiplication are algebra morphisms. -/
+class Bialgebra (R : Type u) (A : Type v) [CommSemiring R] [Semiring A] extends
+    Algebra R A, Coalgebra R A where
+  -- The counit is an algebra morphism
+  /-- The counit on a bialgebra preserves 1. -/
+  counit_one : counit 1 = 1
+  /-- The counit on a bialgebra preserves multiplication. -/
+  counit_mul : ∀ a₁ a₂ : A, counit (a₁ * a₂) = counit a₁ * counit a₂
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Bialgebra.lean:35]: I think it will turn out to be easier to make instances of this if you use
```suggestion
  mul_compr₂_counit : (LinearMap.mul R A).compr₂ counit = (LinearMap.mul R R).compl₁₂ counit counit
```
and then prove a `counit_mul` lemma using `LinearMap.ext₂`. Similarly for `comul`.

File: Mathlib/RingTheory/Bialgebra.lean (hunk 4 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/Bialgebra.lean:7]: I thought so too -- but it's needed! For coalgebras we only need tensor products of R-modules; for bialgebras we need to claim that comultiplication is a ring homomorphism so we need tensor products of R-algebras.

File: Mathlib/RingTheory/Bialgebra.lean (hunk 5 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/Bialgebra.lean]: I find this comment hard to believe, but more to the point I made this change on the tube home and now I think that this makes the definition super-ugly and incomprehensible to a passing mathematician. Thus I propose instead leaving the definition alone (i.e. reverting the last two commits) and insead making a constructor with the incomprehensible fields instead. Would you be happy with this @eric-wieser ? I don't immediately see the advantage of making the definition itself obscure.

Comment (eric-wieser) [reply Mathlib/RingTheory/Bialgebra.lean]: The arguments for changing the definition are:
* I claim that *every* `instance` of this typeclass will want to use my proposed constructor. Anyone who doesn't will be making more work for themselves, and if it's not the default constructor, these people may not even be aware that the "easy" constructor exists. Of course, docstrings can lessen this issue.
* Only the default constructor works with `where` notation
* The fields for `Coalgebra` are stated in this point-free way already (for the same reason), so this is in some sense consistent

I agree that this definition is unfriendly to a mathematician reading it, but so is `Group` and many other typeclasses in mathlib. I don't yet have a good answer to how to solve that problem. Maybe it's worth getting a second opinion from Zulip on this.

File: Mathlib/RingTheory/Bialgebra.lean [hunk 6]
```diff
@@ -0,0 +1,103 @@
...
+
+namespace Bialgebra
+
+variable {R : Type u} {A : Type v}
+variable [CommSemiring R] [Semiring A] [B : Bialgebra R A]
+
+lemma counit_mul {a b : A} : B.counit (a * b) = B.counit a * B.counit b :=
+  DFunLike.congr_fun (DFunLike.congr_fun (B.mul_compr₂_counit) a) b
+
+lemma comul_mul {a b : A} : B.comul (a * b) = B.comul a * B.comul b :=
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Bialgebra.lean:60]: I think this should be written sa
```suggestion
lemma comul_mul (a b : A) : comul (R := R) (a * b) = comul a * comul b :=
```
to avoid naming the instance

File: Mathlib/RingTheory/Bialgebra.lean [hunk 7]
```diff
@@ -0,0 +1,103 @@
...
+  DFunLike.congr_fun (DFunLike.congr_fun (B.mul_compr₂_comul) a) b
+
+-- should `mul_compr₂_counit` and `mul_compr₂_comul` be simp?
+attribute [simp] counit_one comul_one counit_mul comul_mul
+
+variable (R A)
+
+/-- `counitAlgHom R A` is the counit of the `R`-bialgebra `A`, as an `R`-algebra map. -/
+def counitAlgHom : A →ₐ[R] R where
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Bialgebra.lean:69]:
```suggestion
@[simps]
def counitAlgHom : A →ₐ[R] R where
```
also, can you add the trivial consequences of this morphism as simp lemmas, but about `counit`? Namely that `counit (algebraMap R A r) = r` and `counit (a ^ n) = counit a ^ n`, and similarly for comul?

**Comment by eric-wieser** [comment]
I ended up just pushing the two suggestions above

File: Mathlib/RingTheory/Bialgebra.lean (hunk 5 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/Bialgebra.lean]: OK after consulting with someone else (who thinks you're right) I have gone with the obscure definition as the default, and added the less scary one as `Bialgebra.mk'`. Hopefully the docstrings are helpful if people are confused.

**Comment by kbuzzard** [comment]
OK hopefully now everything is dealt with.

File: Mathlib/RingTheory/Bialgebra.lean [hunk 8]
```diff
@@ -65,6 +71,17 @@ lemma comul_mul (a b : A) : comul (R := R) (a * b) = comul a * comul b :=
...
+def mk' (R : Type u) (A : Type v) [CommSemiring R] [Semiring A]
+    [Algebra R A] [C : Coalgebra R A] (counit_one : C.counit 1 = 1)
+    (counit_mul : ∀ {a b}, C.counit (a * b) = C.counit a * C.counit b)
+    (comul_one : C.comul 1 = 1)
+    (comul_mul : ∀ {a b}, C.comul (a * b) = C.comul a * C.comul b) :
+    Bialgebra R A where
+      counit_one := counit_one
+      mul_compr₂_counit := by ext; exact counit_mul
+      comul_one := comul_one
+      mul_compr₂_comul := by ext; exact comul_mul
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Bialgebra.lean:88]:
```suggestion
  counit_one := counit_one
  mul_compr₂_counit := by ext; exact counit_mul
  comul_one := comul_one
  mul_compr₂_comul := by ext; exact comul_mul
```

Comment (kbuzzard) [reply Mathlib/RingTheory/Bialgebra.lean]: Oops! Thanks!

File: Mathlib/RingTheory/Bialgebra.lean [hunk 9]
```diff
@@ -0,0 +1,140 @@
...
+class Bialgebra (R : Type u) (A : Type v) [CommSemiring R] [Semiring A] extends
+    Algebra R A, Coalgebra R A where
+  -- The counit is an algebra morphism
+  /-- The counit on a bialgebra preserves 1. -/
+  counit_one : counit 1 = 1
+  /-- The counit on a bialgebra preserves multiplication. Note that this is written
+  in a rather obscure way: it says that two curried maps `A →ₗ[R] A →ₗ[R]` are equal.
+  The two corresponding uncurried maps `A ⊗[R] A →ₗ[R]` (also equal)
+  are the following: the first factors through `A` and is is multiplication on `A` followed
+  by `counit`. The second factors through `R ⊗[R] R` is `counit ⊗ counit` followed by
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Bialgebra.lean:38]:
```suggestion
  by `counit`. The second factors through `R ⊗[R] R`, and is `counit ⊗ counit` followed by
```

File: Mathlib/RingTheory/Bialgebra.lean [hunk 10]
```diff
@@ -0,0 +1,140 @@
+/-
+Copyright (c) 2024 Ali Ramsey. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Ali Ramsey
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Bialgebra.lean:4]:
```suggestion
Authors: Ali Ramsey, Kevin Buzzard
```

File: Mathlib/RingTheory/Bialgebra.lean [hunk 11]
```diff
@@ -0,0 +1,140 @@
...
+that the counit and comultiplication are algebra morphisms. -/
+class Bialgebra (R : Type u) (A : Type v) [CommSemiring R] [Semiring A] extends
+    Algebra R A, Coalgebra R A where
+  -- The counit is an algebra morphism
+  /-- The counit on a bialgebra preserves 1. -/
+  counit_one : counit 1 = 1
+  /-- The counit on a bialgebra preserves multiplication. Note that this is written
+  in a rather obscure way: it says that two curried maps `A →ₗ[R] A →ₗ[R]` are equal.
+  The two corresponding uncurried maps `A ⊗[R] A →ₗ[R]` (also equal)
+  are the following: the first factors through `A` and is is multiplication on `A` followed
```
Comment (semorrison) [inline Mathlib/RingTheory/Bialgebra.lean:37]:
```suggestion
  are the following: the first factors through `A` and is multiplication on `A` followed
```

File: Mathlib/RingTheory/Bialgebra.lean [hunk 12]
```diff
@@ -0,0 +1,140 @@
...
+
+/-- A bialgebra over a commutative (semi)ring `R` is both an algebra and a coalgebra over `R`, such
+that the counit and comultiplication are algebra morphisms. -/
+class Bialgebra (R : Type u) (A : Type v) [CommSemiring R] [Semiring A] extends
+    Algebra R A, Coalgebra R A where
+  -- The counit is an algebra morphism
+  /-- The counit on a bialgebra preserves 1. -/
+  counit_one : counit 1 = 1
+  /-- The counit on a bialgebra preserves multiplication. Note that this is written
+  in a rather obscure way: it says that two curried maps `A →ₗ[R] A →ₗ[R]` are equal.
```
Comment (semorrison) [inline Mathlib/RingTheory/Bialgebra.lean:35]: Could there please be an explanation of why this is written in a rather obscure way? :-)

File: Mathlib/RingTheory/Bialgebra.lean [hunk 13]
```diff
@@ -0,0 +1,140 @@
...
+variable {R : Type u} {A : Type v}
+variable [CommSemiring R] [Semiring A] [Bialgebra R A]
+
+lemma counit_mul (a b : A) : counit (R := R) (a * b) = counit a * counit b :=
+  DFunLike.congr_fun (DFunLike.congr_fun mul_compr₂_counit a) b
+
+lemma comul_mul (a b : A) : comul (R := R) (a * b) = comul a * comul b :=
+  DFunLike.congr_fun (DFunLike.congr_fun mul_compr₂_comul a) b
+
+-- should `mul_compr₂_counit` and `mul_compr₂_comul` be simp?
```
Comment (semorrison) [inline Mathlib/RingTheory/Bialgebra.lean:71]: No, I don't think so. Because of the way they are written, presumably they will never fire.

**Comment by semorrison** [comment]
Modulo the last three comments,

bors d+

File: Mathlib/RingTheory/Bialgebra.lean (hunk 12 above)
Comment (kbuzzard) [reply Mathlib/RingTheory/Bialgebra.lean:35]: There's an explanation on this github page but you're right: I've added it to the module docstring as an implementation note.

File: Mathlib/RingTheory/Bialgebra.lean [hunk 14]
```diff
@@ -0,0 +1,160 @@
...
+/-- A bialgebra over a commutative (semi)ring `R` is both an algebra and a coalgebra over `R`, such
+that the counit and comultiplication are algebra morphisms. -/
+class Bialgebra (R : Type u) (A : Type v) [CommSemiring R] [Semiring A] extends
+    Algebra R A, Coalgebra R A where
+  -- The counit is an algebra morphism
+  /-- The counit on a bialgebra preserves 1. -/
+  counit_one : counit 1 = 1
+  /-- The counit on a bialgebra preserves multiplication. Note that this is written
+  in a rather obscure way: it says that two bilinear maps `A →ₗ[R] A →ₗ[R]` are equal.
+  The two corresponding equal linear maps `A ⊗[R] A →ₗ[R]`
```
Comment (alreadydone) [inline Mathlib/RingTheory/Bialgebra.lean:57]: Missing the codomains: should be `A →ₗ[R] A →ₗ[R] R` and `A ⊗[R] A →ₗ[R] R`

File: Mathlib/RingTheory/Bialgebra.lean [hunk 15]
```diff
@@ -0,0 +1,160 @@
...
+
+  See `Bialgebra.mk'` for a constructor for bialgebras which uses
+  the more familiar but mathematically equivalent `counit (a * b) = counit a * counit b`. -/
+  mul_compr₂_counit : (LinearMap.mul R A).compr₂ counit = (LinearMap.mul R R).compl₁₂ counit counit
+  -- The comultiplication is an algebra morphism
+  /-- The comultiplication on a bialgebra preserves `1`. -/
+  comul_one : comul 1 = 1
+  /-- The comultiplication on a bialgebra preserves multiplication. This is written in
+  a rather obscure way: it says that two bilinear maps `A →ₗ[R] A →ₗ[R] (A ⊗[R] A)`
+  are equal. The corresponding equal linear maps `A ⊗[R] A →ₗ[R] A ⊗[R] A`
```
Comment (alreadydone) [inline Mathlib/RingTheory/Bialgebra.lean:70]: Maybe remove the parentheses for consistency
